US08076329B2
A mixture of 4-(4-hydroxyphenyl)cyclohexanone (3 g) in tetrahydrofuran (20 mL) and a solution of methylamine in tetrahydrofuran (7.9 mL, 2 M) is stirred overnight at room temperature, concentrated under reduced pressure, dissolved in a mixture of dichloromethane and methanol (30 mL, 1/1) and cooled at a temperature close to 0° C. Sodium borohydride (822 mg) is added portionwise and the mixture is stirred at room temperature for one hour. The precipitate is filtered and washed with diethyl oxide to give 1.1 g of trans-4-(4-hydroxyphenyl)-N-methylcyclohexanamine used without further purification.

reactant | 4-(4-hydroxyphenyl)cyclohexanone | 3 g | OC1=CC=C(C=C1)C1CCC(CC1)=O | C12H14O2
reactant | methylamine | CN | CH5N
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 M, 7.9 mL | O1CCCC1 | C4H8O
product | trans-4-(4-hydroxyphenyl)-N-methylcyclohexanamine | 1.1 g | OC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)NC | C13H19NO
